US07144884B2
Methyl Chloro-oxo-acetate (1.37 g, 11.25 mmol) was added to a stirred solution of 1-tert-butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol (3.00 g, 7.5 mmol) and 4-(dimethylamino)pyridine (1.65 g, 13.5 mmol) in a mixture of dry CH3CN (24 ml) and CHCl3 (12 mL) at 0° C. under argon. The reaction mixture was allowed to reach room temperature and then stirred 2 h. Ethyl acetate (140 mL) was added and some salts were removed by filtration through celite. The organic phase was washed with sat. NaHCO3 (140 ml), brine (140 mL) and dried (MgSO4). The solvents were evaporated in vacuo and the crude material was dried in vacuo. This material was dissolved in dry toluene (48 mL) under argon. Bu3SnH (3.27 g, 11.25 mmol) and AIBN (0.31 g, 1.88 mmol) were added. The solution was stirred under argon at 90° C. for 2.5 h. The solvent was evaporated in vacuo, and the crude material was purified by flash chromatography on silica gel (eluent: a stepwise gradient of ethylacetate in heptane from 10:90 to 20:80) to produce 4-(2-(4-methylphenylsulfanyl)phenyl)-piperidine-1-carboxylic acid tert-butyl ester as a clear oil (1.94 g, 67%). This oil was dissolved in MeOH (9.2 mL) and HCl in diethylether (2.0 M) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The target compound was collected as its hydrochloride. M.p 229–231° C. Calculated for C18H21NS.HCl: C, 67.58; H, 6.63; N, 4.38. Found: C, 67.33; H, 6.97; N, 4.31. LC/MS (m/z) 284 (MH+); RT=2.12; purity (UV, ELSD): 96%, 100%; yield: 0.26 g (46%).

reactant | Methyl Chloro-oxo-acetate | 11.25 mmol, 1.37 g | ClC(C(=O)OC)=O | C3H3ClO3
reactant | 1-tert-butoxycarbonyl-4-[2-(4-methylphenylsulfanyl)phenyl]piperidin-4-ol | 7.5 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C23H29NO3S
reactant | Bu3SnH | 11.25 mmol, 3.27 g | CCCC[SnH](CCCC)CCCC
reactant | AIBN | 1.88 mmol, 0.31 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
catalyst | 4-(dimethylamino)pyridine | 13.5 mmol, 1.65 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Ethyl acetate | 140 mL | C(C)(=O)OCC | C4H8O2
solvent | CHCl3 | 12 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CH3CN | 24 ml | CC#N | C2H3N
product | 4-(2-(4-methylphenylsulfanyl)phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.94 g, 67% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C23H29NO2S
